US09079866B2
6-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-4-amine hydrochloride
The title compound was prepared using analogous conditions to those described in Example 213 utilizing 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol and 4-amino-6-chloropyrimidine. MS (ESI): mass calcd. for C20H15FN6S, 390.11; m/z found, 391.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.29-8.25 (m, 3H), 7.94 (m 1H), 7.82 (d, J=7.4, 1H), 7.74 (m, 1H), 7.67-7.58 (m, 2H), 7.34-7.23 (m, 2H), 5.94 (s, 1H).

reactant | 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S)F | C16H12FN3S
reactant | 4-amino-6-chloropyrimidine | NC1=NC=NC(=C1)Cl | C4H4ClN3
product | 6-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-4-amine hydrochloride | Cl.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)SC1=CC(=NC=N1)N)F | InChI=1S/C20H15FN6S.ClH/c21-15-7-12(5-6-14(15)16-9-25-19(23)10-24-16)13-3-1-2-4-17(13)28-20-8-18(22)26-11-27-20;/h1-11H,(H2,23,25)(H2,22,26,27);1H
